US08754095B2
4-[2-(4-Bromo-phenyl)acetylamino]-piperidine-1-carboxylic acid tert-butyl ester
(4-Bromo-phenyl)-acetic acid (2.84 g, 13.2 mmol, 1.1 equiv.) was dissolved in DCM (60 mL) and DMF (15 mL) to form a suspension and was cooled to an ice-water bath. To this was added 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.4 g, 12 mmol, 1.0 equiv.), followed by N-methylmorpholine (4 mL, 3.68 g, 3 equiv.), 1-Hydroxylbenzotriazole (HOBT) (22.12 g, 15.7 mmol, 1.3 equiv.), sequentially. It was still a suspension. More DMF (10 mL) was added but did not dissolve. EDC.HCl (3.13 g, 16.3 mmol, 1.3 equiv.) was added at 0° C. The suspension slowly (15 min.) turned into a light yellow clear solution. The resultant clear light yellow solution was stirred at r.t. for 1 h, it turned into cloudy again. The mixture was stirred overnight. TLC (5 % MeOH in DCM) and LC/MS detected the product peak at retention time of 3.608 min with MS 334/336. The reaction was quenched with saturated sodium bicarbonate aqueous solution (100 mL) and 10 mL of DCM. The suspension was stirred for 1 h at rt and then filtered, rinsed with plenty of water. The white powder was air-dried under suction overnight to get 4.62 g (96.9% yield) of the title compound as a very white crystalline material.

reactant | (4-Bromo-phenyl)-acetic acid | 13.2 mmol, 2.84 g, 1.1 equiv. | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 12 mmol, 2.4 g, 1.0 equiv. | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | N-methylmorpholine | 4 mL, 3.68 g, 3 equiv. | CN1CCOCC1 | C5H11NO
reactant | 1-Hydroxylbenzotriazole | 15.7 mmol, 22.12 g, 1.3 equiv. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC.HCl | 16.3 mmol, 3.13 g, 1.3 equiv. | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-[2-(4-Bromo-phenyl)acetylamino]-piperidine-1-carboxylic acid tert-butyl ester | 4.62 g, 96.9% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(CC1=CC=C(C=C1)Br)=O | C18H25BrN2O3
